US04279918
2-(3-methoxybenzyl)-1-methylpyrrolidine
Add a solution of 8.1 g of sodium in 160 ml of ethanol dropwise at 90°, with stirring, in a stream of nitrogen to 83.4 g of 2-dimethylamino-1-methyl-1-pyrrolinium-methylsulfate and 48.3 g of 3-methoxyphenylacetic acid ethyl ester. Stir the resulting reaction mixture for a further 30 minutes at 90° and then distribute the reaction mixture between 300 ml of water and 300 ml of diethyl ether. Concentrate the ether phase and boil the residue with conc. hydrochloric acid until carbon dioxide ceases to evolve. After cooling, alkalize the boiled residue with 6 N sodium hydroxide solution before extracting it with diethyl ether. Dry the ether extract over sodium sulfate; concentrate it, and reduce the concentrate in methanol with platinum/hydrogen. Separate the catalyst by filtration, concentrate the filtrate and distil to obtain a yield of 23.0 g (45% of theory) of title compound (b.p. 88° at 0.005 mm of Hg).

reactant | sodium | 8.1 g | [Na] | Na
reactant | 2-dimethylamino-1-methyl-1-pyrrolinium methylsulfate | 83.4 g | CN(C1=[N+](CCC1)C)C.COS(=O)(=O)[O-]
reactant | 3-methoxyphenylacetic acid ethyl ester | 48.3 g | C(C)OC(CC1=CC(=CC=C1)OC)=O | C11H14O3
reactant | water | 300 ml | O | H2O
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-(3-methoxybenzyl)-1-methylpyrrolidine | COC=1C=C(CC2N(CCC2)C)C=CC1 | C13H19NO
